* Fractional-order Chen chaotic oscillator - analog realisation
* Foster-I fractional-order capacitor, order q=0.90
* X,Y,Z are scaled state voltages (state = SX*V). Time scale TS=0.001 s
.param SX=5 TS=0.001

.subckt FOC a b
Rs a n0 0.001
Rb0 n0 n1 54702.5
Cb0 n0 n1 5.80514e-07
Rb1 n1 n2 175.578
Cb1 n1 n2 8.07885e-06
Rb2 n2 n3 231.707
Cb2 n2 n3 2.1721e-06
Rb3 n3 n4 5.2046
Cb3 n3 n4 3.43107e-05
Rb4 n4 n5 28.7153
Cb4 n4 n5 2.20651e-06
Rb5 n5 n6 2.6137
Cb5 n5 n6 8.60116e-06
Rb6 n6 b 5.453
Cb6 n6 b 1.4628e-06
.ends

* unity inverters
Einvx nVX 0 0 VX 1.0
Einvy nVY 0 0 VY 1.0
Einvz nVZ 0 0 VZ 1.0

* analog multipliers (scaled): VXZ = SX*VX*VZ ; VXY = SX*VX*VY
Bxz VXZ 0 V = SX*V(VX)*V(VZ)
Bxy VXY 0 V = SX*V(VX)*V(VY)

Einvxy nVXY 0 0 VXY 1.0

* X fractional integrator
RXy nVY vgX 57.0075
RXx VX vgX 57.0075
XfocX vgX VX FOC
EX VX 0 0 vgX 1e6

* Y fractional integrator
RYx nVX vgY 285.037
RYxz VXZ vgY 1995.26
RYy nVY vgY 71.2594
XfocY vgY VY FOC
EY VY 0 0 vgY 1e6

* Z fractional integrator
RZxy nVXY vgZ 1995.26
RZz VZ vgZ 665.087
XfocZ vgZ VZ FOC
EZ VZ 0 0 vgZ 1e6


.ic V(VX)=-1.8000 V(VY)=-1.0000 V(VZ)=2.8000

.tran 2u 0.12 0 2u uic
.control
run
set wr_singlescale
wrdata ../results/ngspice_chen.csv v(VX) v(VY) v(VZ)
.endc
.end